US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.0 g, 4.3 mmol), DMSO (3 ml) and 4-cyanobenzylamine (1.2 g, 9 mmol) was heated on a steam bath for 3 hours, then was allowed to sit at room temperature overnight. The reaction mixture was poured into water and an oil separated. The oil was extracted with hot 10% ethanol/ethyl acetate, washed with water, and the organic layer was dried and evaporated. The residue was crystallized from ether/ethyl acetate and then was purified by recrystallization from ethyl acetate/hexane, followed by column chromatography on silca gel eluting with ethyl acetate and finally crystallization of the residue thus obtained from ethyl acetate/hexane to afford 280 mg of 1-ethyl-N-(4-cyanophenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as yellow crystals, m.p. 233°-234° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 4.3 mmol, 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
reactant | 4-cyanobenzylamine | 9 mmol, 1.2 g | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
solvent | water | O | H2O
product | 1-ethyl-N-(4-cyanophenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 280 mg | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC=C(C=C2)C#N | C20H17N5
